US04552876
1,5-Bis(3-amino-4-hydroxyphenyl)pentan-3-one
A solution of 8.2 g of 1,5-bis(4-hydroxy-3-nitrophenyl)pentan-3-one in 50 ml of methanol and 150 ml of ethyl acetate was placed in a Parr hydrogenator with 300 mg of 10% Pd/C. After 3 hours the solution was filtered and evaporated to dryness to give 6.7 g of product of m.p. 131°-133° C. Anal. calcd. for C17H20N20. Calcd C, 67.98; H, 6.71; N, 9.32. Found C, 66.91; H, 6.62; N, 8.64.

reactant | 1,5-bis(4-hydroxy-3-nitrophenyl)pentan-3-one | 8.2 g | OC1=C(C=C(C=C1)CCC(CCC1=CC(=C(C=C1)O)[N+](=O)[O-])=O)[N+](=O)[O-] | C17H16N2O7
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 1,5-Bis(3-amino-4-hydroxyphenyl)pentan-3-one | 6.7 g | NC=1C=C(C=CC1O)CCC(CCC1=CC(=C(C=C1)O)N)=O | C17H20N2O3
